US06451804B1
A suspension of 7-benzylthio-3-(2-chlorophenyl)-1-(2-ethoxy-1-ethoxymethylethyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (566 mg, 1.1 mmol) in dichloromethane (5 mL) was cooled in an ice bath and 3-chloroperbenzoic acid was added. The reaction mixture was stirred for 1 hour, concentrated in vacuo, and the residue was purified by column chromatography on silica gel using 98:2 dichloromethane/methanol. The column fractions containing product were combined and concentrated in vacuo to yield 425 mg of 7-benzylsulfinyl-3-(2-chlorophenyl)-1-(2-ethoxy-1-ethoxymethylethyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one.

reactant | 7-benzylthio-3-(2-chlorophenyl)-1-(2-ethoxy-1-ethoxymethylethyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 1.1 mmol, 566 mg | C(C1=CC=CC=C1)SC1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Cl)=O)C(COCC)COCC | C26H29ClN4O3S
reactant | 3-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 7-benzylsulfinyl-3-(2-chlorophenyl)-1-(2-ethoxy-1-ethoxymethylethyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 425 mg | C(C1=CC=CC=C1)S(=O)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Cl)=O)C(COCC)COCC | C26H29ClN4O4S
